US07741341B2
1-(2-Ethoxy-ethoxy)-2,3-dinitro-benzene was prepared by a procedure according to example 108 (i) starting from 500 mg (2.72 mmol) 2,3-dinitro-phenol and 0.72 mL (6.52 mmol) 1-chloro-2-ethoxy-ethane. Yield: 450 mg MS (ES+): m/e=257.

reactant | 2,3-dinitro-phenol | 2.72 mmol, 500 mg | [N+](=O)([O-])C1=C(C=CC=C1[N+](=O)[O-])O | C6H4N2O5
reactant | 1-chloro-2-ethoxy-ethane | 6.52 mmol, 0.72 mL | ClCCOCC | C4H9ClO
product | 1-(2-Ethoxy-ethoxy)-2,3-dinitro-benzene | C(C)OCCOC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C10H12N2O6
